US05442062
Methyl 1,3-cyclohexadiene-1-carboxylate (914 mg, 6.62 mmol) was dissolved in methanol (10 ml) and a 2N aqueous sodium hydroxide solution (4 ml) was added thereto and the solution was stirred at room temperature for 1 hour. The reaction mixture was concentrated, made acidic with hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 1,3-cyclohexadiene-1-carboxylic acid (761 mg, 92.7%) as white solid. This compound has the following NMR spectrum.

reactant | Methyl 1,3-cyclohexadiene-1-carboxylate | 6.62 mmol, 914 mg | C1(=CC=CCC1)C(=O)OC | C8H10O2
reactant | sodium hydroxide | 2N, 4 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 1,3-cyclohexadiene-1-carboxylic acid | 761 mg, 92.7% | C1(=CC=CCC1)C(=O)O | C7H8O2
